US07919519B2
2-Fluoro-4-formylbenzoic acid (0.300 g, 1.78 mmol) was slurried in 10 mL DCM and catalytic DMF was added, followed by oxalyl chloride (0.317 mL, 3.57 mmol). The reaction was allowed to stir several h. Upon consumption of the acid, the reaction was concentrated in vacuo and diluted with 7 mL THF. 4-Benzyl-2-nitrobenzenamine (0.611 g, 2.68 mmol) and diisopropylethylamine (0.622 mL, 3.57 mmol) was added as a solution in 5 mL THF. The reaction was allowed to stir overnight and worked up with EtOAc/saturated sodium bicarbonate, dried over sodium sulfate, filtered, and concentrated. The residue was treated with p-toluenesulfonic acid monohydrate (0.170 g, 0.892 mmol) and MeOH. After 1 h, the mixture was concentrated and adsorbed onto silica gel and purified by chromatography to give N-(4-benzyl-2-nitrophenyl)-4-(dimethoxymethyl)-2-fluorobenzamide. MS (ESI) m/z: Calculated: 424.1; Observed: 425.2 (M++1).

reactant | 2-Fluoro-4-formylbenzoic acid | 1.78 mmol, 0.300 g | FC1=C(C(=O)O)C=CC(=C1)C=O | C8H5FO3
reactant | oxalyl chloride | 3.57 mmol, 0.317 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-Benzyl-2-nitrobenzenamine | 2.68 mmol, 0.611 g | C(C1=CC=CC=C1)C1=CC(=C(C=C1)N)[N+](=O)[O-] | C13H12N2O2
reactant | diisopropylethylamine | 3.57 mmol, 0.622 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | p-toluenesulfonic acid monohydrate | 0.892 mmol, 0.170 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | MeOH | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
product | N-(4-benzyl-2-nitrophenyl)-4-(dimethoxymethyl)-2-fluorobenzamide | C(C1=CC=CC=C1)C1=CC(=C(C=C1)NC(C1=C(C=C(C=C1)C(OC)OC)F)=O)[N+](=O)[O-] | C23H21FN2O5
